US09428470B2
F) (5S)-3-(3-((4-Carbamimidamidobenzoyl)oxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid
(5S)-3-(3-((4-Carbamimidamidobenzoyl)oxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid trifluoroacetate (4.27 g) was suspended in water (126 mL), and the obtained suspension was heated to 80 C and then sonicated at room temperature. To the obtained mixture, diethyl ether (84 mL) was added, and the mixture was stirred overnight at room temperature. The precipitate was collected by filtration and washed with water (1 mL) to obtain the title compound (2.69 g).

reactant | (5S)-3-(3-((4-Carbamimidamidobenzoyl)oxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid trifluoroacetate | 4.27 g | FC(C(=O)O)(F)F.N(C(=N)N)C1=CC=C(C(=O)OC=2C=C(C=CC2)C2=NO[C@](C2)(C(=O)O)CC(=O)O)C=C1
reactant | diethyl ether | 84 mL | C(C)OCC | C4H10O
solvent | water | 126 mL | O | H2O
product | (5S)-3-(3-((4-Carbamimidamidobenzoyl)oxy)phenyl)-5-(carboxymethyl)-4,5-dihydro-1,2-oxazole-5-carboxylic acid | 2.69 g | N(C(=N)N)C1=CC=C(C(=O)OC=2C=C(C=CC2)C2=NO[C@](C2)(C(=O)O)CC(=O)O)C=C1 | C20H18N4O7
